US07115750B1
Concentrated hydrochloric acid (53 ml) was added to 2-[4-[(1-acetyl-3-piperidinyl)carbonyl]phenyl]-1H-isoindol-1,3 (2H)-dione (4.00 g, 10.6 mmol) obtained in Reference Example 76, which was stirred at 100° C. for 16 hours, and then insoluble matters were filtered off. Potassium carbonate was added to the filtrate to make it alkaline, and extraction was conducted using ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting residue was powdered with diisopropyl ether, to give (4-aminophenyl) (3-piperidinyl)methanone (1.69 g).

reactant | hydrochloric acid | 53 ml | Cl | ClH
reactant | 2-[4-[(1-acetyl-3-piperidinyl)carbonyl]phenyl]-1H-isoindol-1,3 (2H)-dione | 10.6 mmol, 4.00 g | C(C)(=O)N1CC(CCC1)C(=O)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C22H20N2O4
product | (4-aminophenyl) (3-piperidinyl)methanone | 1.69 g | NC1=CC=C(C=C1)C(=O)C1CNCCC1 | C12H16N2O
